US06169087A
4-Amino-benzoic acid (40 g, 0.28 mol) was dissolved in a mixture of concentrated hydrochloric acid (84 ml) and water (84 ml). To the resulting mixture was added dropwise at 5° C. a solution of sodium nitrite (21.5 g, 0.31 mol) in water (100 ml). The resulting diazonium salt was added to a mixture of sodium acetate (116 g, 0.85 mol), ethanol (300 ml) and ethyl acetoacetate (36.5 ml, 0.28 mol) at room temperature. The resulting mixture was diluted with a 50% aqueous ethanol (1 l) and stirred for 1 h at room temperature. The precipitate was filtered off and washed with water (1 l), 50% aqueous ethanol (1 l) and heptane (2×300 ml) and dried in vacuo at 50 ° C. for 48 h affording 77 g (98%) of 4-[N′-(1-ethoxycarbonyl-2-oxo-propylidene)-hydrazino]-benzoic acid as a solid.

reactant | 4-Amino-benzoic acid | 0.28 mol, 40 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | sodium nitrite | 0.31 mol, 21.5 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 0.85 mol, 116 g | C(C)(=O)[O-].[Na+]
reactant | ethyl acetoacetate | 0.28 mol, 36.5 ml | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | hydrochloric acid | 84 ml | Cl | ClH
solvent | water | 84 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | ethanol | 1 l | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-[N′-(1-ethoxycarbonyl-2-oxo-propylidene)-hydrazino]-benzoic acid | 77 g, 98% | C(C)OC(=O)C(C(C)=O)=NNC1=CC=C(C(=O)O)C=C1 | C13H14N2O5
